US08134004B2
Step CA8A: 6-Cyclopropylnaphthalene-2-carboxylic acid methyl ester
A flask containing 6-bromo-naphthalene-2-carboxylic acid methyl ester (1.0 g, 3.7 mmol), cyclopropyl boronic acid (421 mg, 4.9 mmol), palladium acetate (42 mg, 0.02 mmol), tricyclohexylphosphine (106 mg, 0.04 mmol) and potassium phosphate (2.802 g, 13.2 mmol) in toluene (15 ml) and water (0.75 ml) was degassed with N2 for 10 minutes. The reaction was heated at 100° C. for 1 hour. After cooling, the reaction mixture was poured into saturated NaHCO3 solution (100 ml) and extracted with EtOAc (3×50 ml). The combined organics were washed with brine (3×50 ml), dried (MgSO4), filtered and concentrated. Flash chromatography (0 to 10% EtOAc in hexane) gave the title compound (270 mg, 30%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) ppm 0.83-0.87 (2H, m), 1.05-1.11 (2H, m), 2.09-2.16 (1H, m), 3.90 (3H, s), 7.33 (1H, dd, J=8.6 Hz, 1.8 Hz), 7.70 (1H, s), 7.89-7.95 (2H, m), 8.02 (1H, d, J=8.6 Hz), 8.56 (1H, s). LC/MS: m/z not observed; retention time=3.93 min

reactant | 6-bromo-naphthalene-2-carboxylic acid methyl ester | 3.7 mmol, 1.0 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C12H9BrO2
reactant | cyclopropyl boronic acid | 4.9 mmol, 421 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.04 mmol, 106 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 13.2 mmol, 2.802 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.75 ml | O | H2O
catalyst | palladium acetate | 0.02 mmol, 42 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Cyclopropylnaphthalene-2-carboxylic acid methyl ester | 270 mg, 30% | COC(=O)C1=CC2=CC=C(C=C2C=C1)C1CC1 | C15H14O2
